US05723133
2-(2-guanidinoethoxy)ethyl acetate
2.06 g (9.99 mmol) of 2-(2-hydroxyethoxy)ethylguanidine succinate, 8 ml of triethylamine, 0.122 mg (1.0 mmol) of 4-N,N-dimethylaminopyridine and 1.02 g (9.99 mmol) of acetic anhydride were placed in a 50 ml two neck flask and were stirred for 1 hour at room temperature. After the upper phase was removed by decantation, the obtained crude product was washed five times with 50 ml of diethylether. The product was purified by a silica gel column chromatography (eluent, chloroform/ethanol=2/1 containing 0.5% acetic acid) to obtain 1.00 g of the title compound (starch syrup-like, 4.0 mmol, 40.0% in yield) in the form of acetate. Results of the analysis of this compound are as follows.

reactant | 2-(2-hydroxyethoxy)ethylguanidine succinate | 9.99 mmol, 2.06 g | C(CCC(=O)O)(=O)O.OCCOCCNC(=N)N
reactant | acetic anhydride | 9.99 mmol, 1.02 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetate | C(C)(=O)[O-]
solvent | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
product | 2-(2-guanidinoethoxy)ethyl acetate | 4.0 mmol, 1.00 g, 40.0% | C(C)(=O)OCCOCCNC(=N)N | C7H15N3O3
